US04985444
Sodium hydride (60%, 43.6 mg) was added to a mixture of 3-(2-oxo-1,2,5,6-tetrahydropyridin-4-yl)-2-phenylpyrazolo[1,5-a]pyridine (210 mg), methyl acrylate (93.8 mg) and tetrahydrofuran (2.1 ml) under ice-cooling. The reaction mixture was stirred at room temperature for 1.5 hours. A saturated solution of sodium chloride (20 ml) was added to the reaction mixture and extracted with ethyl acetate (20 ml×2). The combined extract was washed with a saturated solution of sodium chloride (20 ml), dried over magnesium sulfate and evaporated in vacuo. The residue was purified by column chromatography on silica gel using a mixture of chloroform and ethyl acetate (10:1) to give 3-[1-[2-methoxycarbonylethyl)-2-oxo-1,2,5,6-tetrahydropyridin-4-yl]-2-phenylpyrazolo[1,5-a]pyridine (210.7 mg) as an oil.

reactant | Sodium hydride | 43.6 mg | [H-].[Na+]
reactant | 3-(2-oxo-1,2,5,6-tetrahydropyridin-4-yl)-2-phenylpyrazolo[1,5-a]pyridine | 210 mg | O=C1NCCC(=C1)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | C18H15N3O
reactant | methyl acrylate | 93.8 mg | C(C=C)(=O)OC | C4H6O2
reactant | sodium chloride | 20 ml | [Cl-].[Na+]
solvent | tetrahydrofuran | 2.1 ml | O1CCCC1 | C4H8O
product | 3-[1-[2-methoxycarbonylethyl)-2-oxo-1,2,5,6-tetrahydropyridin-4-yl]-2-phenylpyrazolo[1,5-a]pyridine | 210.7 mg | COC(=O)CCN1C(C=C(CC1)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2)=O | C22H21N3O3
